US07199147B2
A 4N-hydrogen chloride-1,4-dioxane solution (0.200 mg, 0.800 mmol) was added to a solution of tert-butyl 4-{[(1H-indazol-5-ylcarbonyl)amino]methyl}piperidine-1-carboxylate (36.0 mg, 0.100 mmol) in a mixture of 1,4-dioxane (0.4 ml) and acetic acid (0.7 ml) at room temperature, and the resulting mixture was stirred for 3 hours while being maintained at room temperature. Toluene was added to the reaction solution and the resulting mixture was stirred while being maintained at room temperature. Then, the resulting slurry was collected by filtration and dried under reduced pressure, and the resulting crude product residue was stirred in methanol (3.0 ml) for 1 hour with heating under reflux while maintaining the temperature. The resulting mixture was concentrated to dryness to obtain N-(piperidin-4-ylmethyl)-1H-indazole-5-carboxamide hydrochloride (29.8 mg, 100%).

reactant | hydrogen chloride-1,4-dioxane | 0.800 mmol, 0.200 mg | O1CCOCC1.Cl
reactant | tert-butyl 4-{[(1H-indazol-5-ylcarbonyl)amino]methyl}piperidine-1-carboxylate | 0.100 mmol, 36.0 mg | N1N=CC2=CC(=CC=C12)C(=O)NCC1CCN(CC1)C(=O)OC(C)(C)C | C19H26N4O3
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 0.4 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
product | N-(piperidin-4-ylmethyl)-1H-indazole-5-carboxamide hydrochloride | 29.8 mg, 100% | Cl.N1CCC(CC1)CNC(=O)C=1C=C2C=NNC2=CC1 | InChI=1S/C14H18N4O.ClH/c19-14(16-8-10-3-5-15-6-4-10)11-1-2-13-12(7-11)9-17-18-13;/h1-2,7,9-10,15H,3-6,8H2,(H,16,19)(H,17,18);1H
